US04575507
D. 7'-fluorospiro[imidazolidine-4,1'(2'H)-naphthalene]2,5-dione
3',4',-Dihydro-4'-hydroxy-7'-fluorospiro[imidazolidine-4,1'(2'H)-naphthalene]2,5-dione (3.2 g., 0.013 mole) was added to 75 ml. of toluene containing a trace of -toluenesulfonic acid and the mixture heated to reflux for 5 hours. The toluene was removed in vacuo and the residue triturated with diethyl ether and filtered, 2.6 g. (87% yield).

reactant | 3',4',-Dihydro-4'-hydroxy-7'-fluorospiro[imidazolidine-4,1'(2'H)-naphthalene]2,5-dione | 0.013 mole, 3.2 g | OC1CCC2(C3=CC(=CC=C13)F)NC(NC2=O)=O | C12H11FN2O3
reactant | toluenesulfonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 7'-fluorospiro[imidazolidine-4,1'(2'H)-naphthalene]2,5-dione | 87% yield | FC1=CC=C2C=CCC3(C2=C1)NC(NC3=O)=O | C12H9FN2O2
